US04859233
[(2,3,6-Trichlorobenzoyl)aminooxy]acetic acid
To 1.25 g. of potassium carbonate in 15 ml. of water and 35 ml. of tetrahydrofuran was added 2.0 g. of methyl [(2,3,6-trichlorobenzoyl)aminooxy]acetate and the resulting mixture was stirred at 50° C., for 2 days. The solvents were evaporated in vacuo and residue dissolved in dilute aqueous sodium hydroxide, washed with ethyl acetate and the aqueous layer acidified with concentrated hydrochloric acid. The resulting aqueous layer was extracted with two portions of ethylacetate, the combined ethyl acetate layers were dried over MoSO4 and concentrated in vacuo to obtain [2,3,6-trichlorobenzoyl)aminooxy]acetic acid, m.p. 145°-147° C.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | methyl [(2,3,6-trichlorobenzoyl)aminooxy]acetate | ClC1=C(C(=O)NOCC(=O)OC)C(=CC=C1Cl)Cl | C10H8Cl3NO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [(2,3,6-Trichlorobenzoyl)aminooxy]acetic acid | ClC1=C(C(=O)NOCC(=O)O)C(=CC=C1Cl)Cl | C9H6Cl3NO4
